US08471005B2
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1 $1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine was prepared from 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow foam (134 mg, 66%). LCMS (m/e) 301 (M—N(CH2)4SO2); 1H-NMR (CDCl3, 400 MHz) δ 8.60 (s, 1H), 7.73 (d, 2H, J=8.5 Hz), 7.31 (d, 2H, J=8.5 Hz), 6.92 (s, 1H), 6.81 (d, 1H, J=4.8 Hz), 6.76 (d, 1H, J=4.8 Hz), 3.63 (s, 2H), 3.10-3.03 (m, 4H), 3.03-2.97 (m, 4H).

reactant | 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol | BrC1=CC=C2C=NC(=NN21)O | C6H4BrN3O
reactant | 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
product | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1 $1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)CN2CCS(CC2)(=O)=O | C17H18BrN5O2S
